US05665718
1.26 g (3 mmol) of (S)-8-bromo-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were stirred at room temperature for 5 hours with 0.44 g (6 mmol) of diethylamine and 10 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with methylene chloride/methanol 19/1 there were obtained 1.14 g (82%) of (S)-8-bromo-1-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 206°-209°.

reactant | (S)-8-bromo-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 3 mmol, 1.26 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O | C16H11BrClN5O2
reactant | diethylamine | 6 mmol, 0.44 g | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-8-bromo-1-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.14 g, 82% | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CN(CC)CC)CC1)=O | C20H21BrN6O2
